US04051248
A. 6-Fluoro-2-[(dimethylamino)methyl]-3,4-dihydro-1(2H)-naphthalenone, hydrochloride (1:1)
A mixture comprising 8.0 g 6-fluoro-α-tetralone, 5.3 g of dimethylamine hydrochloride, 2.0 g paraformaldehyde, and 10 ml 95% ethanol containing 0.1 ml concentrated hydrogen chloride is heated on a steam bath for 1.5 hours. The reaction mixture soon because homogeneous and the paraformaldehyde dissolves. The warm solution (bright yellow) is transferred to a widemouthed flask and is quickly diluted by the addition of acetone (100 ml). Cooling this solution in the freezer for 16 hours produced a crystalline mass of white plates that is collected and washed with additional acetone. After drying this material in vacuo, the crystalline title compound weighs 10.1 g (80%) melting point 152°-153° C.

reactant | 6-fluoro-α-tetralone | 8.0 g | C1CC2=C(C=CC(=C2)F)C(=O)C1 | C10H9FO
reactant | dimethylamine hydrochloride | 5.3 g | Cl.CNC
reactant | paraformaldehyde | 2.0 g | C=O | CH2O
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 6-Fluoro-2-[(dimethylamino)methyl]-3,4-dihydro-1(2H)-naphthalenone, hydrochloride | Cl.FC=1C=C2CCC(C(C2=CC1)=O)CN(C)C | InChI=1S/C13H16FNO.ClH/c1-15(2)8-10-4-3-9-7-11(14)5-6-12(9)13(10)16;/h5-7,10H,3-4,8H2,1-2H3;1H
